US07012161B2
1290 mL of butyllithium (1.6 M hexane solution) was added to a mixture of 168 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 1200 g of tetrahydrofuran at −70° C. under a nitrogen atmosphere. The temperature was increased to 0° C. gradually, and stirred at the temperature for 30 minutes. Then, 134 g of 5-norbornene-2-carbaldehyde was added thereto at 0° C. After stirring for 1 hour, dilute hydrochloric acid was added to terminate the reaction and to neutralize it. After the standard aqueous work-up, the product was purified by silica gel column chromatography to yield 230 g of 1-(5-norbornene-2-yl)-2,2,4,4,4-pentafluorobutane-1,3,3-triol (yield from 1,1,1,3,3,3-hexafluoro-2-propanol was 80%)

reactant | butyllithium | 1.6 M, 1290 mL | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 168 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 5-norbornene-2-carbaldehyde | 134 g | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 1200 g | O1CCCC1 | C4H8O
product | 1-(5-norbornene-2-yl)-2,2,4,4,4-pentafluorobutane-1,3,3-triol | 230 g, 80% | C12C(CC(C=C1)C2)C(C(C(C(F)(F)F)(O)O)(F)F)O | C11H13F5O3
